US04369312
In methylene chloride (10 ml) is dissolved diphenylmethyl 3-acetoxymethyl-7-[N-methoxy-2-(2-formylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylate (535 mg). Under ice-cooling, anisole (1 ml) and trifluoroacetic acid (1.5 ml) are added and the mixture is stirred for 1.5 hours. The reaction mixture is concentrated under reduced pressure and the residue is dissolved in ethyl acetate and extracted with a dilute aqueous solution of sodium hydrogen carbonate. The water layer is adjusted to pH 1 with dil HCl and extracted with ethyl acetate. The extract is washed with aqueous sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure. The residue is washed with isopropyl ether to give a powder of 3-acetoxymethyl-7-[N-methoxy-2-(2-formylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (390 mg).

reactant | diphenylmethyl 3-acetoxymethyl-7-[N-methoxy-2-(2-formylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylate | 535 mg | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2N(C(CC=2N=C(SC2)NC=O)=O)OC)=O | C30H28N4O8S2
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-acetoxymethyl-7-[N-methoxy-2-(2-formylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | 390 mg | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2N(C(CC=2N=C(SC2)NC=O)=O)OC)=O | C17H18N4O8S2
